US06130238
Iron powder (2.6 g) was added all at once to 4.5 g of 3-nitrobiphenyl-4-acetic acid in 40 mL of acetic acid. The mixture was refluxed for 2 hours, concentrated to dryness and taken up in ethyl acetate. The solids were removed by filtration and the filtrate washed twice with 1N hydrochloric acid and brine and dried over anhydrous sodium sulfate. The filtrate was concentrated to give 3.4 g (93% yield) of 6-phenyl-2-oxindole as a light brown solid.

reactant | 3-nitrobiphenyl-4-acetic acid | 4.5 g | [N+](=O)([O-])C=1C=C(C=CC1CC(=O)O)C1=CC=CC=C1 | C14H11NO4
solvent | acetic acid | 40 mL | C(C)(=O)O | C2H4O2
catalyst | Iron | 2.6 g | [Fe] | Fe
product | 6-phenyl-2-oxindole | 3.4 g, 93% yield | C1(=CC=CC=C1)C1=CC=C2CC(NC2=C1)=O | C14H11NO
